US07081465B2
A mixture of anhydrous potassium carbonate (10 gm, in excess) and 3-phenylpropylamine (0.42 ml, 0.003 mole) was taken in dry DMSO (40 ml). Now 4-(2-naphthyloxy)-1-chlorobutane (0.5 gm, 0.002 mole) was added in it. Reaction mixture was refluxed at 145° C. for 7 hrs and the reaction was completed as checked by TLC. Reaction mixture was poured in distilled water (60 ml) and extracted with ethyl acetate thrice. The organic layer was separated and concentrated to get oily compound which was later crystallized by benzene hexane to get N-(3-phenylpropyl)-(4-(naphthalen-2-yloxy)butyl)amine solid, m.p. 117° C., (yield 0.67 gm, 93.6%).

reactant | potassium carbonate | 10 gm | C([O-])([O-])=O.[K+].[K+]
reactant | 3-phenylpropylamine | 0.003 mole, 0.42 ml | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 4-(2-naphthyloxy)-1-chlorobutane | 0.002 mole, 0.5 gm | C1=C(C=CC2=CC=CC=C12)OCCCCCl | C14H15ClO
solvent | DMSO | 40 ml | CS(=O)C | C2H6OS
solvent | water | 60 ml | O | H2O
product | N-(3-phenylpropyl)-(4-(naphthalen-2-yloxy)butyl)amine | C1(=CC=CC=C1)CCCNCCCCOC1=CC2=CC=CC=C2C=C1 | C23H27NO
